US06451814B1
N-hexyl-4-{[4-(2-{[(2S)-2-hydroxy-3-(4-hydroxyphenoxy)propyl]amino}ethyl)phenyl]sulfanyl}-1-piperidinecarboxamide
4-{[4-(2-Aminoethyl)phenyl]sulfanyl}-N-hexyl-1-piperidinecarboxamide (0.588 g, 1.617 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenylsilane (0.589 g, 1.455 mmol) according to Procedure G to give the title compound (eluant: 20/1 chloroform-methanol) (0.395 g, 0.514 mmol).

reactant | 4-{[4-(2-Aminoethyl)phenyl]sulfanyl}-N-hexyl-1-piperidinecarboxamide | 1.617 mmol, 0.588 g | NCCC1=CC=C(C=C1)SC1CCN(CC1)C(=O)NCCCCCC | C20H33N3OS
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenylsilane | 1.455 mmol, 0.589 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | N-hexyl-4-{[4-(2-{[(2S)-2-hydroxy-3-(4-hydroxyphenoxy)propyl]amino}ethyl)phenyl]sulfanyl}-1-piperidinecarboxamide | 0.514 mmol, 0.395 g | C(CCCCC)NC(=O)N1CCC(CC1)SC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C29H43N3O4S
